US04115398
The process for preparing this compound and its physical properties will be given below. A solution of 2.6 grams of 3,4-diethoxycarbonyloxycinnamyl chloride in 10 milliliters of benzene is added dropwise with stirring to a solution of 3.8 grams of isoindoline in 20 milliliters of benzene while cooling the reaction system with ice. After completion of the dropping, the reaction is carried out for 2 hours at room temperature. On completion of the reaction, water and a large quantity of benzene are added followed by separating and collecting the benzene layer. After concentrating the benzene layer, it is left to stand under cooled conditions to precipitate crystals. When these crystals are recrystallized from a tetrahydrofuran-ether mixture, 1.1 grams (yield 52.1%) of N-(3,4-dihydroxycinnamyl)-isoindoline is obtained as crystals having a melting point of 60.5° C. (decomposition).

reactant | 3,4-diethoxycarbonyloxycinnamyl chloride | 2.6 grams | C(C)OC(=O)OC=1C=C(C=CCCl)C=CC1OC(=O)OCC | C15H17ClO6
reactant | isoindoline | 3.8 grams | C1NCC2=CC=CC=C12 | C8H9N
reactant | water | O | H2O
solvent | benzene | 10 milliliters | C1=CC=CC=C1 | C6H6
solvent | benzene | 20 milliliters | C1=CC=CC=C1 | C6H6
product | N-(3,4-dihydroxycinnamyl)-isoindoline | 1.1 grams, yield 52.1% | OC=1C=C(C=CCN2CC3=CC=CC=C3C2)C=CC1O | C17H17NO2
